### PR TITLE
feat(GroupTheory/Artin): add braid groups as Artin groups of type A

### PR DESCRIPTION
**Pull request by kim-em**
This PR defines braid groups as Artin groups of type A.

- `BraidGroup n`: the braid group B_n on n strands
- `BraidGroup.σ`: the standard Artin generators
- `BraidGroup.toPermHom`: the canonical surjection B_n → S_n
- `BraidGroup.braidGroupTwoEquivInt`: B_2 ≃* ℤ

- [ ] depends on: #35219

🤖 Prepared with Claude Code

### CODE REVIEW

File: Mathlib/GroupTheory/Artin/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,214 @@
...
+
+variable {B : Type*}
+
+namespace CoxeterMatrix
+
+variable (M : CoxeterMatrix B)
+
+/-! ### Alternating words -/
+
+/-- The word of length `m` that alternates between `i` and `j`, ending with `j`.
```
Comment (themathqueen) [inline Mathlib/GroupTheory/Artin/Basic.lean]: do you not mean ending with `i`?
```suggestion
/-- The word of length `m` that alternates between `i` and `j`, ending with `i`.
```

File: Mathlib/GroupTheory/Artin/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,214 @@
...
+theorem length_alternatingWord (i j : B) (m : ℕ) : (alternatingWord i j m).length = m := by
+  induction m generalizing i j with
+  | zero => rfl
+  | succ m ih => simp [alternatingWord_succ, ih]
+
+theorem alternatingWord_one (i j : B) : alternatingWord i j 1 = [i] := rfl
+
+theorem alternatingWord_two (i j : B) : alternatingWord i j 2 = [j, i] := rfl
+
+theorem alternatingWord_three (i j : B) : alternatingWord i j 3 = [i, j, i] := rfl
```
Comment (themathqueen) [inline Mathlib/GroupTheory/Artin/Basic.lean]: `simp` lemmas? Also probably move these next to `_zero` so it can look neater?

File: Mathlib/Algebra/Group/End.lean [hunk 3]
```diff
@@ -574,6 +574,21 @@ theorem swap_mul_swap_mul_swap {x y z : α} (hxy : x ≠ y) (hxz : x ≠ z) :
   nth_rewrite 3 [← swap_inv]
   rw [← swap_apply_apply, swap_apply_left, swap_apply_of_ne_of_ne hxy hxz, swap_comm]
 
+/-- The braid relation for adjacent transpositions:
+`swap a b * swap b c * swap a b = swap b c * swap a b * swap b c` -/
+theorem swap_mul_swap_mul_swap_braid {a b c : α} (hab : a ≠ b) (hbc : b ≠ c) (hac : a ≠ c) :
+    swap a b * swap b c * swap a b = swap b c * swap a b * swap b c := by
+  ext
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/End.lean]: maybe a better name would be `swap_conjugate` or something? I think including the word "braid" here might cause confusion?
```suggestion
theorem swap_mul_swap_mul_swap_braid {a b c : α} (hab : a ≠ b) (hbc : b ≠ c) :
    swap a b * swap b c * swap a b = swap b c * swap a b * swap b c := by
```

**Review by kim-em — COMMENTED** [review]
done

**Comment by kim-em** [comment]
Done in c0d0377534 - renamed to `swap_conjugate` and removed redundant hypothesis.

File: Mathlib/Algebra/Group/End.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Algebra/Group/End.lean]: Done in c0d0377534 - renamed to `swap_conjugate` and removed redundant hypothesis.

File: Mathlib/GroupTheory/Artin/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,264 @@
...
+
+variable (M : CoxeterMatrix B)
+
+/-! ### Alternating words -/
+
+/-- The word of length `m` that alternates between `i` and `j`, ending with `i`.
+For example, `alternatingWord i j 3 = [i, j, i]` and `alternatingWord i j 4 = [j, i, j, i]`. -/
+def alternatingWord (i j : B) : ℕ → List B
+  | 0 => []
+  | m + 1 => (alternatingWord j i m).concat i
```
Comment (robin-carlier) [inline Mathlib/GroupTheory/Artin/Basic.lean]: FYI, This definition already exists in the file `GroupTheory/CoxeterMatrix/Basic`

Comment (robin-carlier) [inline Mathlib/GroupTheory/Artin/Basic.lean]: This definition already exists in the file `GroupTheory/CoxeterMatrix/Basic`, under the name `CoxeterSystem.alternatingWord` with some API available.

File: Mathlib/GroupTheory/Coxeter/Perm.lean [hunk 5]
```diff
@@ -0,0 +1,116 @@
+/-
```
Comment (robin-carlier) [inline Mathlib/GroupTheory/Coxeter/Perm.lean:1]: FYI, As annonced in this thread: [#maths > Equiv.Perm (Fin (n + 1)) is a Coxeter group](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Equiv.2EPerm.20.28Fin.20.28n.20.2B.201.29.29.20is.20a.20Coxeter.20group/with/559095481), I have work that I plan to upstream soon to mathlib that shows the realation between coxeter groups of type A and Coxeter groups (using a general criterion to prove a group is a Coxeter group). I can upstream it sooner if this is too slow for you, but I would like to remain as claiming the TODO that this is an isomorphism ;). Happy to adapt my stuff to this version of the homomorphism (mine is of course the same, but with proofs a little less clean).

File: Mathlib/GroupTheory/Artin/Basic.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/GroupTheory/Artin/Basic.lean]: Oops, thanks for noticing this!

File: Mathlib/GroupTheory/Coxeter/Perm.lean (hunk 5 above)
Comment (kim-em) [reply Mathlib/GroupTheory/Coxeter/Perm.lean:1]: Sorry, I had missed that. I'm very happy to wait / let you claim things as you prefer. This PR is not high priority for me. It was mostly keeping up to date with Claude's capabilities in Mathlib.

Comment (kim-em) [reply Mathlib/GroupTheory/Coxeter/Perm.lean:1]: (My understanding of this comment is that it's okay if we proceed as is with this PR, you're just pointing out the you have plans for the "future work" section. If that's not correct, no problem!)

Comment (robin-carlier) [reply Mathlib/GroupTheory/Coxeter/Perm.lean:1]: Yes, sorry for being slow on this one, I was very absorbed by an other project. Your understanding is correct: I was pointing out that I have some code for proving that the function defined in this file is injective. It should be easy on my side to adapt the definitions to match the content in this PR.

File: Mathlib/GroupTheory/Artin/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,232 @@
...
+variable {B : Type*}
+
+namespace CoxeterMatrix
+
+variable (M : CoxeterMatrix B)
+
+/-! ### Free group product of a word -/
+
+/-- Convert a list of indices to an element of the free group by taking the product. -/
+def freeGroupProd (l : List B) : FreeGroup B := (l.map FreeGroup.of).prod
```
Comment (tb65536) [inline Mathlib/GroupTheory/Artin/Basic.lean]: This and the following theorems shouldn't be in this file.

File: Mathlib/GroupTheory/Coxeter/Perm.lean [hunk 7]
```diff
@@ -0,0 +1,116 @@
...
+/-- For involutions satisfying the braid relation, the cube of their product is one. -/
+theorem mul_pow_three_eq_one_of_braid {G : Type*} [Group G]
+    {a b : G} (ha : a ^ 2 = 1) (hb : b ^ 2 = 1) (hbraid : a * b * a = b * a * b) :
+    (a * b) ^ 3 = 1 := by
+  grind only [pow_succ, mul_assoc, pow_zero, one_mul]
+
+/-- For commuting involutions, the square of their product is one. -/
+theorem mul_pow_two_eq_one_of_comm {G : Type*} [Group G]
+    {a b : G} (ha : a ^ 2 = 1) (hb : b ^ 2 = 1) (hcomm : a * b = b * a) :
+    (a * b) ^ 2 = 1 := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Coxeter/Perm.lean]: This can be phrased in terms of `Commute` and can be generalized to arbitrary powers.

File: Mathlib/GroupTheory/FreeGroup/Basic.lean [hunk 8]
```diff
@@ -911,6 +911,19 @@ def freeGroupUnitEquivInt : FreeGroup Unit ≃ ℤ where
         simp only [zpow_neg, zpow_natCast, map_inv, map_pow, map.of, sum.map_inv, neg_inj] at ih
         simp [zpow_add, ih, sub_eq_add_neg])
 
+/-- The multiplicative equivalence between the free group on a singleton and `Multiplicative ℤ`. -/
+def freeGroupUnitEquivMulInt : FreeGroup Unit ≃* Multiplicative ℤ where
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/Basic.lean]: Note that this is also done in this PR: #34621

**Review by tb65536 — COMMENTED** [review]
This PR is a bit on the longer side, so splitting could potentially be helpful for reviewing.

File: Mathlib/GroupTheory/Coxeter/Perm.lean (hunk 7 above)
Comment (kim-em) [reply Mathlib/GroupTheory/Coxeter/Perm.lean]: Done in https://github.com/kim-em/mathlib4/commit/15203c1

File: Mathlib/GroupTheory/Artin/Basic.lean (hunk 6 above)
Comment (kim-em) [reply Mathlib/GroupTheory/Artin/Basic.lean]: Done in https://github.com/kim-em/mathlib4/commit/4029640

File: Mathlib/GroupTheory/FreeGroup/Basic.lean (hunk 8 above)
Comment (kim-em) [reply Mathlib/GroupTheory/FreeGroup/Basic.lean]: I've renamed to `freeGroupUnitMulEquivInt` to match #34621's naming (https://github.com/kim-em/mathlib4/commit/1ae632a). This PR only adds the minimal content needed, and should be mergeable in either order with #34621.

File: Mathlib/Algebra/Group/End.lean [hunk 9]
```diff
@@ -96,12 +96,19 @@ def equivUnitsEnd : Perm α ≃* Units (Function.End α) where
...
 theorem mul_apply (f g : Perm α) (x) : (f * g) x = f (g x) :=
   rfl
 
+@[grind =]
 theorem one_apply (x) : (1 : Perm α) x = x :=
   rfl
 
+@[grind =]
+theorem pow_add_one_apply (f : Perm α) (n : ℕ) (x : α) :
+    (f ^ (n + 1)) x = (f^n) (f x) := by
```
Comment (tb65536) [inline Mathlib/Algebra/Group/End.lean]:
```suggestion
    (f ^ (n + 1)) x = (f ^ n) (f x) := by
```

File: Mathlib/GroupTheory/Artin/Braid.lean [hunk 10]
```diff
@@ -0,0 +1,161 @@
...
+The braid group `B_n` is the group with presentation:
+* Generators: σ_1, ..., σ_{n-1}
+* Relations:
+  - σ_i σ_j = σ_j σ_i for |i - j| ≥ 2 (far commutativity)
+  - σ_i σ_{i+1} σ_i = σ_{i+1} σ_i σ_{i+1} (braid relation)
+
+This is the Artin group associated to the Coxeter matrix of type A_{n-1}.
+
+There is a canonical surjection from `B_n` to the symmetric group `S_n` sending σ_i to
+the adjacent transposition (i, i+1).
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Artin/Braid.lean]: Missing `$` latex markers in various places here.

Comment (kim-em) [reply Mathlib/GroupTheory/Artin/Braid.lean]: Done.
